US05057513
A solution of 4N hydrogen chloride in ethyl acetate (50 ml) was added to a solution of (1S,6S)-1-phenylmethyl-10-(3-pyridylmethyl)-11-oxo-7-thia-10-azaspiro[5.6]-dodecane 7,7-dioxide (12.6 g) in methylene chloride (130 ml) and the mixture was concentrated under reduced pressure. The residue was dissolved in ethyl alcohol (50 ml) and the solution was warmed at 80° C. Isopropyl alcohol (350 ml) was added dropwise to a solution and the mixture was refluxed for one hour. The mixture was cooled to 0° C. and the resulting crystalline solid was collected by filtration to give (1S,6S)-1-phenylmethyl-10-(3-pyridylmethyl)-11-oxo-7-thia-10-azaspiro[5.6]dodecane 7,7-dioxide hydrochloride (8.6 g).

reactant | hydrogen chloride | 4N | Cl | ClH
reactant | (1S,6S)-1-phenylmethyl-10-(3-pyridylmethyl)-11-oxo-7-thia-10-azaspiro[5.6]-dodecane 7,7-dioxide | 12.6 g | C1(=CC=CC=C1)C[C@@H]1CCCC[C@@]12S(CCN(C(C2)=O)CC=2C=NC=CC2)(=O)=O | C23H28N2O3S
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 130 ml | C(Cl)Cl | CH2Cl2
product | (1S,6S)-1-phenylmethyl-10-(3-pyridylmethyl)-11-oxo-7-thia-10-azaspiro[5.6]dodecane 7,7-dioxide hydrochloride | 8.6 g | Cl.C1(=CC=CC=C1)C[C@@H]1CCCC[C@@]12S(CCN(C(C2)=O)CC=2C=NC=CC2)(=O)=O | InChI=1S/C23H28N2O3S.ClH/c26-22-16-23(11-5-4-10-21(23)15-19-7-2-1-3-8-19)29(27,28)14-13-25(22)18-20-9-6-12-24-17-20;/h1-3,6-9,12,17,21H,4-5,10-11,13-16,18H2;1H/t21-,23-;/m0./s1
